US07947676B2
2-[(4-{[3-methoxy-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethanol
The procedure described in Example 1 was repeated using N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (200 mg, 0.9 mmol) and 3-methoxy-4-(pyridin-2-ylmethoxy)aniline (249 mg, 1.08 mmol) to give the title compound as a white solid (262 mg, 72%); NMR Spectrum: 3.80 (s+t, 5H), 4.31 (t, 2H), 5.15 (s, 2H), 7.04 (d, 1H), 7.16 (dd, 1H), 7.35 (s+d, 2H), 7.54 (d, 1H), 7.85 (t, 1H), 8.23 (s, 1H), 8.39 (s, 1H), 8.33 (s, 1H), 8.58 (d, 1H); Mass Spectrum: 409 (MH+).

reactant | N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 0.9 mmol, 200 mg | C(#N)C=1C(=NNC1N=CN(C)C)OCCO | C9H13N5O2
reactant | 3-methoxy-4-(pyridin-2-ylmethoxy)aniline | 1.08 mmol, 249 mg | COC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C13H14N2O2
product | 2-[(4-{[3-methoxy-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethanol | 262 mg, 72% | COC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCO | C20H20N6O4
